US03954754
EXAMPLE 17: 6-(2,3-Dimethylbenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
10.3 g of 3-chloro-6-(2,3-dimethylbenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine and 50 cc of hydrazine hydrate in 80 cc of dioxane are heated in an oil bath of 80°. After a reaction time of 60 hours, the mixture is concentrated in a vacuum, the oily residue is divided between 250 cc of chloroform and 150 cc of water, and after concentrating the chloroform phase, the resulting oily crude base is reacted with gentisic acid as described in Example 10. The gentisinate of the title compound has a M.P. of 176°-179° (decomp.) after recrystallization from 150 cc of methanol and 100 cc of water.

reactant | 3-chloro-6-(2,3-dimethylbenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 10.3 g | ClC1=CC2=C(N=N1)CCN(C2)C(C2=C(C(=CC=C2)C)C)=O | C16H16ClN3O
reactant | hydrazine hydrate | 50 cc | O.NN
reactant | gentisinate | C1=CC(=C(C=C1O)C(=O)O)O | C7H6O4
solvent | dioxane | 80 cc | O1CCOCC1 | C4H8O2
product | 6-(2,3-Dimethylbenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | CC1=C(C(=O)N2CC3=C(N=NC(=C3)NN)CC2)C=CC=C1C | C16H19N5O
